US08426411B2
To a flask containing (1S,2R,4S)-ethyl 4-acetamido-2-ethylcyclopentanecarboxylate (9.44 g, 41.5 mmol) was added NaOH (2 N aqueous, 141 mL, 282 mmol). After stirring at ambient temperature for about 12 h, the reaction was acidified to about pH 1 by the addition of 6 N aqueous HCl (50 mL) and extracted with EtOAc (3×500 mL). The combined organic layers were washed with brine (100 mL), dried over anhydrous MgSO4, filtered, and concd under reduced pressure to give crude (1S,2R,4S)-4-acetamido-2-ethylcyclopentanecarboxylic acid (7.25 g, 88%): LC/MS (Table 1, Method a) Rt=1.51 min; MS m/z: 200 (M−H)+.

reactant | (1S,2R,4S)-ethyl 4-acetamido-2-ethylcyclopentanecarboxylate | 41.5 mmol, 9.44 g | C(C)(=O)N[C@H]1C[C@H]([C@H](C1)C(=O)OCC)CC | C12H21NO3
reactant | NaOH | 282 mmol, 2 N, 141 mL | [OH-].[Na+]
solvent | HCl | 6 N, 50 mL | Cl | ClH
product | (1S,2R,4S)-4-acetamido-2-ethylcyclopentanecarboxylic acid | 7.25 g, 88% | C(C)(=O)N[C@H]1C[C@H]([C@H](C1)C(=O)O)CC | C10H17NO3
